US06884774B2
To a suspension of 4-[4-(4-methylcyclohexyl)-1-piperazinyl]benzohydrazide (12.48 g) and pyridine (11.7 ml) in THF (374 ml) was added 4-iodobenzoyl chloride (11 g) under ice-cooling and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was added water (3700 ml). The resulting precipitate was collected by filtration and dried to give N′-(4-iodobenzoyl)-4-[4-(4-methylcyclohexyl)-1-piperazinyl]benzohydrazide (22.45 g).

reactant | 4-[4-(4-methylcyclohexyl)-1-piperazinyl]benzohydrazide | 12.48 g | CC1CCC(CC1)N1CCN(CC1)C1=CC=C(C(=O)NN)C=C1 | C18H28N4O
reactant | pyridine | 11.7 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-iodobenzoyl chloride | 11 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | water | 3700 ml | O | H2O
solvent | THF | 374 ml | C1CCOC1 | C4H8O
product | N′-(4-iodobenzoyl)-4-[4-(4-methylcyclohexyl)-1-piperazinyl]benzohydrazide | 22.45 g | IC1=CC=C(C(=O)NNC(C2=CC=C(C=C2)N2CCN(CC2)C2CCC(CC2)C)=O)C=C1 | C25H31IN4O2
